US09227985B2
tert-Butyl (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine-2-carboxylate
(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine-2-carbaldehyde (15 mg, 0.042 mmol) and dimethylamine hydrochloride (0.0041 g, 0.050 mmol) [Aldrich, cat. #126365] were dissolved in acetonitrile (1.5 mL) at room temperature. To the resulting mixture, copper(II) sulfate pentahydrate (0.0005 g, 0.002 mmol) [Aldrich, cat. #209198], calcium carbonate (0.0046 g, 0.046 mmol) [Aldrich, cat. #C6763] and 6.0 M tert-butyl hydroperoxide in decane (0.0076 mL, 0.046 mmol) [Aldrich, cat. #416665] were added. The reaction vessel was capped, degassed, and allowed to stir at 40° C. for 10 hours. After filtration through Celite, the solution was concentrated and the resulting residue was purified by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) afforded the following three compounds:

reactant | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine-2-carbaldehyde | 0.042 mmol, 15 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=O)C | C20H16N4O3
reactant | dimethylamine hydrochloride | 0.050 mmol, 0.0041 g | Cl.CNC
reactant | calcium carbonate | 0.046 mmol, 0.0046 g | C([O-])([O-])=O.[Ca+2]
reactant | tert-butyl hydroperoxide | 6.0 M | C(C)(C)(C)OO | C4H10O2
reactant | decane | 0.046 mmol, 0.0076 mL | CCCCCCCCCC | C10H22
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
catalyst | copper(II) sulfate pentahydrate | 0.002 mmol, 0.0005 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | tert-Butyl (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine-2-carboxylate | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C(=O)OC(C)(C)C)C | C24H24N4O4
